US07074798B2
a) 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurine-1-yl]methyl ester
2,2-Dimethylpropionic acid [3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester (2.31 g) was dissolved in N,N-dimethylformamide (18 ml), and N-chlorosuccinimide (973 mg) was added to the solution while cooling on ice. Then, the mixture was stirred for 10 minutes on ice, and then at room temperature for 20 hours. The obtained reaction mixture was diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. After removing the solvent by distillation from the organic layer, the residue was purified by silica gel column chromatography to give 1.61 g of the title compound from the elution fraction of hexane-ethyl acetate (1:1).

reactant | 2,2-Dimethylpropionic acid [3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester | 2.31 g | CC(C(=O)OCN1C(N(C(C=2NC=NC12)=O)COC(C(C)(C)C)=O)=O)(C)C | C17H24N4O6
reactant | N-chlorosuccinimide | 973 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurine-1-yl]methyl ester | 1.61 g | ClC1=NC=2N(C(N(C(C2N1)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C17H23ClN4O6
